US04649153
6.5 cc of acetic acid was added to a suspension of 64.1 g (0.98 g at) of zinc powder and 6.4 g (0.024 mole) of mercuric chloride in 65 cc of water and the mixture was stirred for 30 min. Then a solution of 14 g (0.076 mole) of 2-methyl-4-oxo-5,6-dihydro-4H-cyclopenta[b]thiophene-6-carboxylic acid in 140 cc of toluene, then 60 cc of 10N hydrochloric acid were successively added. The mixture was refluxed for 5 hours then decanted after cooling to ambient temperature. The organic phase was separated. The aqueous phase was extracted with toluene. The organic solutions were collected, washed with water and dried on sodium sulfate. Evaporation of the solvent under reduced pressure provided 9.8 g (yield=71%) of 2-methyl-5,6-dihydro-4H-cyclo-penta[b]thiophene-6-carboxylic acid (mp=105°-107° C.) which was used afterwards without further purification. An analytical sample was obtained by recrystallization in a hexane-ethyl acetate mixture. Mp=107°-109° C.

reactant | acetic acid | 6.5 cc | C(C)(=O)O | C2H4O2
reactant | 2-methyl-4-oxo-5,6-dihydro-4H-cyclopenta[b]thiophene-6-carboxylic acid | 0.076 mole, 14 g | CC1=CC2=C(S1)C(CC2=O)C(=O)O | C9H8O3S
reactant | hydrochloric acid | 10N, 60 cc | Cl | ClH
solvent | water | 65 cc | O | H2O
solvent | toluene | 140 cc | C1(=CC=CC=C1)C | C7H8
catalyst | zinc | 64.1 g | [Zn] | Zn
product | 2-methyl-5,6-dihydro-4H-cyclo-penta[b]thiophene-6-carboxylic acid | 9.8 g, yield=71% | CC1=CC2=C(S1)C(CC2)C(=O)O | C9H10O2S
